US05280032
5.1 g of potassium tert-butoxide was added to 105 ml of ethylene glycol mono-tert-butyl ether. The mixture was heated to 80° C. Thereto was dropwise added 35.0 g of 2-(3-chlorophenyl)oxirane over 1 hour. The mixture was stirred for 2 hours at the same temperature. The reaction mixture was added to a mixture of 100 ml of ice water and 100 ml of ethyl acetate. The organic layer was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was subjected to further distillation under reduced pressure to obtain 37.7 g of colorless oily 1-(3-chlorophenyl)-2-(2-tert-butoxyethoxy)ethanol having a boiling point of 140°-146° C./0.9 mmHg.

reactant | potassium tert-butoxide | 5.1 g | CC(C)([O-])C.[K+]
reactant | ethylene glycol mono-tert-butyl ether | 105 ml | C(C)(C)(C)OCCO | C6H14O2
reactant | 2-(3-chlorophenyl)oxirane | 35.0 g | ClC=1C=C(C=CC1)C1OC1 | C8H7ClO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3-chlorophenyl)-2-(2-tert-butoxyethoxy)ethanol | 37.7 g | ClC=1C=C(C=CC1)C(COCCOC(C)(C)C)O | C14H21ClO3
